US08461167B2
The title compound can be synthesized from 4-ethynylisoquinolin-8-amine and N-(3-iodo-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide in a manner similar to that described for Example 1. 4-ethynylisoquinolin-8-amine is prepared from 4-bromoisoquinolin-8-amine and ethynyitrimethylsilane according to the 2 steps procedure described in example 1.

reactant | 4-bromoisoquinolin-8-amine | BrC1=CN=CC2=C(C=CC=C12)N | C9H7BrN2
reactant | ethynyitrimethylsilane | C(#C)[Si](C)(C)C | C5H10Si
product | 4-ethynylisoquinolin-8-amine | C(#C)C1=CN=CC2=C(C=CC=C12)N | C11H8N2
